US07994338B2
3,4-Dimethoxy-N-[4-(3-nitrophenyl)thiazol-2-yl]benzenesulfonamide
4-(3-Nitrophenyl)thiazol-2-amine (1.10 g, 5.0 mmol) was dissolved in dry pyridine (16 mL) and then 3,4-dimethoxybenzene-1-sulfonyl chloride (1.323 g, 5.59 mmol) was added. The reaction mixture was stirred at room temperature for 23 h and then the pyridine was flashed off in vacuo with toluene. The residue was slurried with EtOAc and water. Full solution was achieved and then ice cold 1M NaOH was added. After thorough shaking, the aqueous phase was separated and the organic phase was twice extracted with 1M NaOH and then with water until no yellow color was extracted. The aqueous extract was combined with the NaOH solution and the solution was made slightly acidic with 3M HCl. The product was extracted into EtOAc, then washed successively with H2O and saturated NaCl solution. After drying over Na2SO4, the solvent was removed in vacuo to give a gum which contained HOAc. This was flashed off with toluene. The foam remained slowly solidified and after drying in vacuo, weighed 1.632 g (77.4%) and was greater than 95% pure by TLC. This material was taken up in hot EtOAc, diluted with about one-half the volume of hexane while hot which induced crystallization. The first crop weighed 1.352 g and was pure by TLC, but had no distinct melting point. Yield of pure material (TLC) was 64.2%.

reactant | 4-(3-Nitrophenyl)thiazol-2-amine | 5.0 mmol, 1.10 g | [N+](=O)([O-])C=1C=C(C=CC1)C=1N=C(SC1)N | C9H7N3O2S
reactant | 3,4-dimethoxybenzene-1-sulfonyl chloride | 5.59 mmol, 1.323 g | COC=1C=C(C=CC1OC)S(=O)(=O)Cl | C8H9ClO4S
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | pyridine | 16 mL | N1=CC=CC=C1 | C5H5N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | HOAc | CC(=O)O | C2H4O2
solvent | water | O | H2O
product | 3,4-Dimethoxy-N-[4-(3-nitrophenyl)thiazol-2-yl]benzenesulfonamide | COC=1C=C(C=CC1OC)S(=O)(=O)NC=1SC=C(N1)C1=CC(=CC=C1)[N+](=O)[O-] | C17H15N3O6S2
